Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___               Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Concern for seizures
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ year old right-handed man with depression and
anxiety who presented to the emergency department because he
reports to me that he was "seizing a lot" and could not move his
extremities because of generalized weakness. 

Mr. ___ reports that starting in the beginning of ___ 
that
he noticed that he was having episodes in which both of his eyes
were moving abnormally and his eyelids were twitching nearly
continuously for hours at a time.  He reports this this abnormal
movement leads to vision blurriness.  Mr. ___ thinks the
abnormal eye movement and his eyelid twitching is suppressible
for perhaps a second if he really tries, but he overall feels
that he cannot control the eyelid twitching.  Mr. ___ 
eyelid
twitching occurs at all times of the day.  He feels like being 
in
a bright room or outside might make the eyelid twitching worse,
but ultimately is uncertain if he just notices the eyelid
twitching more in bright light. 

==============================================================
Pertinently, Mr. ___ did not initially disclose, but when I
returned to ___ him later in the evening he revealed that
while his abnormal eye and eyelid movement is largely 
involuntary
he can actually voluntarily produce the movement. 
===============================================================

Mr. ___ reports that one to two weeks after the onset of
eyelid twitching he noticed that he was having twitching of both
of his hands with the right arm being more affected than the 
left
arm.  Mr. ___ initially was not having the hand twitching 
very
often, but over the last week it has increased in frequency and
is occurring about five times per day and lasts between 10 to 30
minutes.  Mr. ___ is conscious when he has the hand 
twitching,
but feels that the movement is rhythmic.  Mr. ___ reports 
that
in addition to the hand twitching that he sometimes has abnormal
movements of his entire legs that occur with the hand twitching
or independent of the hand twitching.  He feels that his whole
arms and legs have been becoming progressively weaker over the
entire weak.  Mr. ___ reports because of the intermittent leg
weakness that he sometimes cannot walk. 
  
Mr. ___, finally, reports that over the last week that he has
been having speech difficulty.  Mr. ___ knows what he wants 
to
say, but has difficulty getting the words out because of 
slowness
of speech and stuttering.  

Mr. ___ mother agreed with the patient's history but added
that she is puzzled by her sons behavior as sometimes he looks
normal and sometimes he is quite disabled by the above symptoms. 

Mrs. ___ mother is perhaps most concerned about her sons
falls at home.  Thankfully, Mr. ___ has not hit his head or
hurt himself as a result of the falls.  Mr. ___ mother 
plans
to move Mr. ___ back to home to ___ once she gets a good
idea of what might be going on. 

Mr. ___ reports that he recently withdrew from ___ ___ because of mental health issues.  He 
had
only been in class for three weeks.  Mr. ___ reports
significant mental health issues lead to his withdrawal,
including depression and anxiety.  Mr. ___ felt his anxiety
and depression were getting worse because of pressure from being
in school.  Mr. ___ states that his anxiety and depression 
did
not improve after he left school and the pressure of such was
lifted.  I asked Mr. ___ mother to leave the room so that I
could privately ask him questions and Mr. ___ did not reveal
any additional stressors.  He feels safe and does not want to
hurt himself. 

Mr. ___ presented to ___ ED on ___. 
He had a ___ and blood work which were reported as normal.  He
was not seen by a neurologist because there was not one in the
hospital.  Mr. ___ has been working to schedule an 
appointment
with a neurologist, but has been unable to do so. 

 
Past Medical History:
Mr. ___ reports that he has had anxiety and depression since
age ___.  Mr. ___ feels that his symptoms are secondary to
genetics and because of stress from school.  Mr. ___ started
seeing a Dr. ___ in ___ about one year ago.  Mr.
___ was diagnoses with major depression with anxiety and
reports that he has been on 6 different psychotropic 
medications.
Mr. ___ stopped taking any medications in ___ because he
felt none of them were of any benefit.  Mr. ___ has never
previously been evaluated by a neurologist. 
 
Social History:
___
Family History:
Mr. ___ reports dense history of anxiety and depression on
both sides of his family.  Mr. ___ has two maternal aunts 
with
multiple sclerosis. 
 
Physical Exam:
Admission Physical Exam:
Neurologic examination: 
Mental status:  
He is awake, alert, and cooperative with the exam.  He is
oriented to name, place and date.  He is attentive, able to say
months of the year backwards.  Fund of knowledge is intact.  He
is able to provide the last three presidents and is able to
detail important historical details.  Language is fluent, but
speech is flat and lacks intonation.  Left, right 
differentiation
and calculations are intact.  No evidence of ideational,
ideomotor, or limb kinetic apraxia.  No frontal reflease signs,
including glabellar, palmomental, and grasp reflexes.  
Cranial nerves:  
Pupils are equal and reactive.  Extraocular movements are full. 
Patient initially had abnormal eye and eyelid movements that he
could not control and I examined him while occurring.  Patient's
eyelids were fluttering rhythmically at a high frequency and on
primary gaze he was having rapid movements of his eyes in the
horizontal plane.  I could not determine a fast or slow phase of
the eye movement.  I asked him to look medially and laterally 
and
during the saccade and the end gaze he continued to have the
abnormal horizontal eye movement.  He could look upward and
downward and, again, during the pursuit and maintenance of the
upward and downward gaze he continued to have the abnormal
horizontal eye movement.  I left patient and came back later to
examine him and tried to wait til he had abnormal eye/eyelid
movement, but then he disclosed to me he could perform the
abnormal movements on command.  The voluntary abnormal movement
was identical to the "involuntary" abnormal movement described
above.  Facial sensation and movement are intact and symmetric. 
Hearing is intact to finger rub bilaterally.  Patient's speech 
is
slow, but not dysarthric.  Palate elevates symmetrically.  SCM
and trapezius are full strength bilaterally.  Tongue is midline. 


Motor:  
Bulk and tone is normal.  Patient had no abnormal arm or leg
movements.  Patient has no pronator drift, orbiting, and/or
slowing of movement in one arm compared to the other.  Patient
gives poor effort on confrontational motor examination.  He, for
example, will provide good initial resistance and but then will
stop providing resistance and let the tested muscle go limp. 
There is no pattern of weakness.  I did not detect any asymmetry
in strength on his initial good efforts when testing muscles of
arms and legs.  
Sensation:  
Pinprick is intact in the hands and feet.  Position sense is
intact in the toes bilaterally, even to small upward and 
downward
excursions.  
Coordination:  
No rebound.  No dysdiadocokinesia.  Finger-nose-finger and
finger-to-nose are intact without dysmetria bilaterally.    
Reflexes:  
Patient's reflexes are 1 throughout.  Toes are downgoing
bilaterally.  
Gait: 
Patient told me on first examination that he could not walk, but
when I returned to ___ him he was OK with walking and was
able to do so normally.  

Discharge Physical Exam:
-Mental Status: Alert, oriented, attentive. Language is fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Pt. was able to name both high and 
low
frequency objects. Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.  

He had an episode of difficulty speaking, while on EEG. This 
difficulty speaking was associated with eyes rolling upwards and 
shaking. He was conscious and able to follow commands during 
event, and all movements were distractible. 

CN  
I: not tested  
II,III: VFF to confrontation, pupils 4mm->2mm bilaterally. 
III,IV,VI: EOMI, no ptosis. No nystagmus. Patient can 
voluntarily create the movement of concern when eyes are fixated 
ahead. These movements do not interrupt saccades, and do not 
occur spontaneously. 
V: sensation intact V1-V3 to LT  
VII: Symmetric forehead raise, eye closure, and smile. 
VIII: hears finger rub bilaterally  
IX,X: palate elevates symmetrically, uvula midline  
XI: SCM/trapezeii ___ bilaterally  
XII: tongue protrudes midline, no dysarthria  

Motor: Normal bulk and tone, no rigidity; no asterixis or
myoclonus. No pronator drift.  
  Delt Bi Tri WE FE Grip   
  C5   C6 C7  C6 C7 C8/T1   
L 5    ___  5  5    
R 5    ___  5  5    
 
  IP Quad ___ PF  
  L2 L3   L4-S1 L4 L5  S1/S2  
L 5  5     5    ___ 
R 5  5     5    ___

Reflex: No clonus  
  Bi Tri Bra Pat An Plantar  
  C5 C7  C6  L4  S1 CST  
L ___   2   ___ Flexor  
R ___   2   ___ Flexor 

-Sensory: No deficits to light touch throughout. 
 
-Coordination: No intention tremor, dysdiadochokinesia noted. No
dysmetria on FNF bilaterally.  

-Gait: Good initiation. Narrow-based.

 
Pertinent Results:
___ 02:54PM BLOOD WBC-7.5 RBC-4.68 Hgb-13.9 Hct-42.7 MCV-91 
MCH-29.7 MCHC-32.6 RDW-13.0 RDWSD-43.1 Plt ___
___ 02:54PM BLOOD Glucose-95 UreaN-14 Creat-1.0 Na-141 
K-4.1 Cl-106 HCO3-25 AnGap-10
___ 02:54PM BLOOD ALT-17 AST-22 AlkPhos-69 TotBili-0.3
___ 02:54PM BLOOD Albumin-4.5
___ 02:54PM BLOOD TSH-1.2
___ 02:54PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

MRI ___
FINDINGS:  
  
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift 
or infarction.   The ventricles and sulci are normal in caliber 
and 
configuration.  There is no abnormal enhancement after contrast 
administration. 
  
There is mild mucosal thickening and mucous retention cyst in 
the left 
maxillary sinus.  Mild anterior ethmoid air cell mucosal 
thickening is also 
present.  The imaged portions of the orbits are unremarkable. 
  
IMPRESSION:  
  
Normal brain MRI. 

 
Brief Hospital Course:
___ is a ___ yo RHM with depression and anxiety who 
presented with several weeks of eye fluttering, bilateral 
extremity shaking, speech changes and falls without injury, all 
intermittent. Eye fluttering could be briefly suppressible and 
was generally involuntary, though he later disclosed during the 
hospitalization that he could also voluntarily produce the same 
movement. In addition, he endorsed extremity twitching, speech 
difficulty, and generalized weakness. Of note, he has an 
extensive history of anxiety and depression, and he recently 
withdrew from college due to mental health issues. He is not 
currently on any psychotropic medications. He denied active PDW 
or SI. 

His neurological exam was normal. We observed several episodes 
of rapid eyelid fluttering that was suppressible and decreased 
when the patient was distracted. In addition, he was 
volitionally able to produce these movements. We felt that his 
symptoms were most consistent with a functional neurological 
disorder, with mixed features (motor and seizure). We did an MRI 
brain that was normal. EEG captured several episodes of eyelid 
fluttering, as well as bilateral extremity shaking that did not 
show an epileptiform correlate; his background was also normal. 

He was evaluated by physical therapy who recommended outpatient 
therapy. He should follow up with a psychiatrist to discuss 
further psychotropic management and therapist for cognitive 
behavioral therapy as an outpatient. He was counseled regarding 
the diagnosis and further reliable information sources 
(neurosymptoms.org). Patient and mother were agreeable to 
discharge, and will be returning home to ___ in the next few 
days. 

Transitional issues:
If patient returns to live in ___, could consider referral to 
___ as wholistic therapies have 
previously been helpful for him
Outpatient psychiatry follow up
 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Functional Neurological Disorder
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ due to eye fluttering, tremors, 
twitches, and muscle weakness. In your neurological exam, you 
sometimes had difficulty with strength but other times had 
excellent strength. Your labs and MRI brain were normal. We did 
an EEG that captured several episodes of eyelid fluttering. We 
found that these events are not seizures. During your 
hospitalization, we also spoke with Dr. ___ updated him 
on your results and discharge plan. 

You were diagnosed with a Functional Neurological Disorder. This 
is a disorder where your neurological symptoms (such as the eye 
fluttering and limb weakness) are due to a problem with how your 
brain functions. It is not due to damage of the brain. We do not 
understand precisely why functional neurological disorders occur 
in certain people, but we do know that we can treat the 
symptoms. We are giving you a prescription for physical therapy. 
In addition, managing stress, anxiety, and depressive symptoms 
is a key part of your recovery. We would like you to resume 
working with a therapist for cognitive behavioral therapy and a 
psychiatrist to discuss medication management. 

Please schedule an appointment with your primary care provider 
___ ___ days following discharge. 

It was a pleasure taking care of you!
Your ___ Neurology team
 
Followup Instructions:
___